US07863283B2
(RS)-N-(Ethoxycarbonyl)-S-methyl-S-[3-({[6-methoxy-4-(3-pyridylamino)-quinazolin-7-yl]oxy}methyl)phenyl]sulphoximide
According to GWP 5, the reaction of N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide (76 mg, 0.17 mmol) with 3-aminopyridine (19 mg, 0.20 mmol) and chromatographic purification (silica gel, amino column, hexane, dichloromethane/methanol: 0→5% methanol) gives the desired product in 55% yield (46 mg).

reactant | N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide | 0.17 mmol, 76 mg | C(#N)C1=C(C=C(C(=C1)OC)OCC1=CC(=CC=C1)S(=O)(=NC(=O)OCC)C)N=CN(C)C | C22H26N4O5S
reactant | 3-aminopyridine | 0.20 mmol, 19 mg | NC=1C=NC=CC1 | C5H6N2
reactant | hexane | CCCCCC | C6H14
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-N-(Ethoxycarbonyl)-S-methyl-S-[3-({[6-methoxy-4-(3-pyridylamino)-quinazolin-7-yl]oxy}methyl)phenyl]sulphoximide | 55% yield | C(C)OC(=O)N=S(=O)(C1=CC(=CC=C1)COC1=C(C=C2C(=NC=NC2=C1)NC=1C=NC=CC1)OC)C | C25H25N5O5S
